US07279580B2
8-Fluoro-7-trifluoromethylimidazo[1,2-α]pyridine (102 mg, 0.5 mmol) and 5′-bromo-4,2′-difluorobiphenyl-2-carbonitrile (221 mg, 0.75 mmol) were coupled following the procedure given in Example 6 to afford 4,2′-difluoro-5′-(8-fluoro-7-trifluoromethylimidazo[1,2-α]pyridin-3-yl)-biphenyl-2-carbonitrile (93 mg, 45%) as an off-white solid: δH (360 MHz, CDCl3) 7.00 (1H, dd, J 7 and 6), 7.40-7.47 (2H, m), 7.55 (1H, dd, J 8 and 3), 7.57-7.65 (3H, m), 7.86 (1H, s), 8.34 (1H, d, J 7); m/z (ES+) 418 (100%, [MH]+).

reactant | 8-Fluoro-7-trifluoromethylimidazo[1,2-α]pyridine | 0.5 mmol, 102 mg | FC=1C=2N(C=CC1C(F)(F)F)C=CN2 | C8H4F4N2
reactant | 5′-bromo-4,2′-difluorobiphenyl-2-carbonitrile | 0.75 mmol, 221 mg | BrC=1C=CC(=C(C1)C=1C(=CC(=CC1)F)C#N)F | C13H6BrF2N
product | 4,2′-difluoro-5′-(8-fluoro-7-trifluoromethylimidazo[1,2-α]pyridin-3-yl)-biphenyl-2-carbonitrile | 93 mg, 45% | FC=1C=C(C(=CC1)C1=C(C=CC(=C1)C1=CN=C2N1C=CC(=C2F)C(F)(F)F)F)C#N | C21H9F6N3
